US08071595B2
A solution of 4-(3-bromo-5,5-dimethyl-4-oxo-4,5-dihydrofuran-2-yl) benzonitrile (0.3 g, 1.03 mmol), 2-((4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)methyl)quinoline (0.374 g, 1.03 mmol), and Cs2CO3 (1.70 g, 5.14 mmol) in toluene (7 mL) and water (2.5 mL) was degassed. Then, Pd(dppf)Cl2 (0.17 g, 0.20 mmol) was added under an inert atmosphere and the solution was again degassed. Then the reaction was refluxed for 2 h. The reaction mixture was then filtered through a pad of Celite® and the filtrate was diluted with EtOAc (40 mL). The combined organic layers were washed with water (20 mL) and brine (20 mL), dried over Na2SO4, filtered, and concentrated in vacuo to obtain the crude product. The crude material was purified via silica gel column chromatography to afford 4-(5,5-dimethyl-4-oxo-3-(4-(quinolin-2-ylmethoxy)phenyl)-4,5-dihydrofuran-2-yl)benzonitrile (280 mg, 61%) as a pale yellow solid. 1H NMR (400 MHz, d6-DMSO): δ 8.42 (d, J=8.5 Hz, 1H), 8.01 (t, J=7.9 Hz, 2H), 7.90 (d, J=8.4 Hz, 2H), 7.78 (t, J=8.3 Hz, 1H), 7.72-7.67 (m, 3H), 7.62 (t, J=8.3 Hz, 1H), 7.16 (d, J=8.8 Hz, 2H), 7.10 (d, J=8.8 Hz, 2H), 5.38 (s, 2H), 1.46 (s, 6H). MS: [M+H]: m/z=447.5. HPLC: 98%, Column: Acquity BEH-C -18, 50×2.1 mm, 1.7 um. Mobile Phase: 0.025% TFA in Water (A), AcN (B), Flow rate: 0.5 ml/min (Gradient).

reactant | 4-(3-bromo-5,5-dimethyl-4-oxo-4,5-dihydrofuran-2-yl) benzonitrile | 1.03 mmol, 0.3 g | BrC1=C(OC(C1=O)(C)C)C1=CC=C(C#N)C=C1 | C13H10BrNO2
reactant | 2-((4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)methyl)quinoline | 1.03 mmol, 0.374 g | CC1(OB(OC1(C)C)C1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1)C | C22H24BNO3
reactant | Cs2CO3 | 5.14 mmol, 1.70 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | 7 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 2.5 mL | O | H2O
catalyst | Pd(dppf)Cl2 | 0.20 mmol, 0.17 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-(5,5-dimethyl-4-oxo-3-(4-(quinolin-2-ylmethoxy)phenyl)-4,5-dihydrofuran-2-yl)benzonitrile | 280 mg, 61% | CC1(C(C(=C(O1)C1=CC=C(C#N)C=C1)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)=O)C | C29H22N2O3
